US07858623B2
Step 7: N-(5-(6,7-dimethoxyquinolin-4-yloxy)pyridin-2-yl)-4-(2-methoxyethylamino)-2-oxo-1-phenyl-1,2-dihydropyridine-3-carboxamide.
2-methoxyethylamine (137 μl, 1573 μmol) was added to a suspension of N-(5-(6,7-dimethoxyquinolin-4-yloxy)pyridin-2-yl)-4-iodo-2-oxo-1-phenyl-1,2-dihydropyridine-3-carboxamide (122 mg, 197 μmol) in iso-propanol (1 mL). The reaction mixture was heated at 100° C. for 80 min. An aliquot was taken and analyzed by LCMS: The reaction was done. The reaction mixture was diluted with dichloromethane. The crude was adsorbed on silica and purified by MPLC (CH2Cl2/MeOH: 100/0 to 95/5) to afford the title compound N-(5-(6,7-dimethoxyquinolin-4-yloxy)pyridin-2-yl)-4-(2-methoxyethylamino)-2-oxo-1-phenyl-1,2-dihydropyridine-3-carboxamide (84 mg, 148 μmol, 75% yield). MS (ESI pos. ion) m/z: 568 (MH+). Calc'd exact mass for C31H29N5O6: 567. 1H NMR (400 MHz, DMSO-d6) 13.28 (s, 1H), 10.80-10.71 (m, 1H), 8.49 (d, J=5.2 Hz, 1H), 8.34 (d, J=9.1 Hz, 1H), 8.30 (d, J=2.8 Hz, 1H), 7.79 (dd, J=9.2, 3.1 Hz, 1H), 7.73 (d, J=7.8 Hz, 1H), 7.58-7.37 (m, 7H), 6.53 (d, J=5.2 Hz, 1H), 6.32 (d, J=8.1 Hz, 1H), 3.95 (s, 3H), 3.94 (s, 3H), 3.64-3.54 (m, 4H), 3.34 (s, 3H).

reactant | 2-methoxyethylamine | 1573 μmol, 137 μl | COCCN | C3H9NO
reactant | N-(5-(6,7-dimethoxyquinolin-4-yloxy)pyridin-2-yl)-4-iodo-2-oxo-1-phenyl-1,2-dihydropyridine-3-carboxamide | 197 μmol, 122 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC=1C=CC(=NC1)NC(=O)C=1C(N(C=CC1I)C1=CC=CC=C1)=O | C28H21IN4O5
solvent | iso-propanol | 1 mL | C(C)(C)O | C3H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(5-(6,7-dimethoxyquinolin-4-yloxy)pyridin-2-yl)-4-(2-methoxyethylamino)-2-oxo-1-phenyl-1,2-dihydropyridine-3-carboxamide | 148 μmol, 84 mg, 75% yield | COC=1C=C2C(=CC=NC2=CC1OC)OC=1C=CC(=NC1)NC(=O)C=1C(N(C=CC1NCCOC)C1=CC=CC=C1)=O | C31H29N5O6
